US05780500
2.0 ml (18.33 mmol) of N-methylmorpholine and 2.4 ml (18.33 mmol) of isobutyl chloroformate are added dropwise at -15° C. to a solution of 5.0 g (18.33 mmol) of 1-chloro-dibenz[b,f]oxepine-10-carboxylic acid in dimethoxyethane. After 5 minutes filtration is carried out and at -15° C. a solution of 1.39 g (36.67 mmol) of sodium borohydride in 15 ml of water is added dropwise to the filtrate. The mixture is stirred for 15 minutes at -15° C., then 35 ml of 1N hydrochloric acid are added and the mixture is allowed to warm to room temperature. The reaction mixture is rendered basic with sodium hydroxide and extracted 4× with ethyl acetate. The organic phase is washed 1× with water, dried over sodium sulfate and concentrated. 4.58 g (17.7 mmol)=96.6% of crude (1-chlorodibenz[b,f]oxepin-10-yl)-methanol are obtained in the form of a yellow oil; TLC (silica gel; ethyl acetate/hexane=1:1; UV): Rf =10.46; 1H-NMR (CDCl3, 200 MHz): 2.42 (sbr, 1H); 1H); 4.71 (s, 2H); 7.10-7.45 (m, 7H).

reactant | N-methylmorpholine | 18.33 mmol, 2.0 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 18.33 mmol, 2.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-chloro-dibenz[b,f]oxepine-10-carboxylic acid | 18.33 mmol, 5.0 g | ClC1=CC=CC=2OC3=C(C(=CC21)C(=O)O)C=CC=C3 | C15H9ClO3
reactant | sodium borohydride | 36.67 mmol, 1.39 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 35 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | water | 15 ml | O | H2O
product | (1-chlorodibenz[b,f]oxepin-10-yl)-methanol | 96.6% | ClC1=CC=CC=2OC3=C(C(=CC21)CO)C=CC=C3 | C15H11ClO2
